US07786044B2
28. Preparation of 4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-vinylpyridine-2-carboxylic acid methyl ester
4-Acetylamino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylic acid methyl ester (0.5 g, 1.29 mmol), tributyl(vinyl)tin (0.821 g, 2.58 mmol), bis(triphenylphosphine)palladium(II) dichloride (0.091 g, 0.129 mmol), and tetrabutylammonium triphenyldifluorosilicate (1.4 g, 2.58 mmol) were combined in acetonitrile (3 ml) and heated to 110° C. for 15 min in a CEM microwave reactor. The cooled reaction mixture was concentrated onto silica gel and purified by flash chromatography on silica gel (ethyl acetate/hexane gradient) to yield the title compound (0.293 g, 60% yield) as a white solid, mp 143-145° C. 1H NMR (CDCl3) δ 7.66 (m, 1H), 7.22 (d, 1H), 7.12 (m, 1H), 6.85 (dd, 1H), 5.66 (dd, 1H), 5.57 (dd, 1H), 4.61 (br s, 2H), 3.97 (s, 3H), 3.94 (d, 3H).

reactant | 4-Acetylamino-3-chloro-6-(4-chloro-2-fluoro-3-methoxyphenyl)pyridine-2-carboxylic acid methyl ester | 1.29 mmol, 0.5 g | COC(=O)C1=NC(=CC(=C1Cl)NC(C)=O)C1=C(C(=C(C=C1)Cl)OC)F | C16H13Cl2FN2O4
reactant | tributyl(vinyl)tin | 2.58 mmol, 0.821 g | C(CCC)[Sn](C=C)(CCCC)CCCC
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.129 mmol, 0.091 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-Acetylamino-6-(4-chloro-2-fluoro-3-methoxyphenyl)-3-vinylpyridine-2-carboxylic acid methyl ester | 0.293 g, 60% yield | COC(=O)C1=NC(=CC(=C1C=C)NC(C)=O)C1=C(C(=C(C=C1)Cl)OC)F | C18H16ClFN2O4
